US07674795B2
The procedure used in Example 6 is followed, but starting from 250 mg of 5-[1-(tert-butoxycarbonyl)benzimidazol-2-yl]-7-( tert-butoxycarbonyl-amino)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 29 mg of Raney nickel in 4 ml of ethanol and 4 ml of tetrahydrofuran for 10 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, and purification by formation of a paste in diisopropyl ether, in this way we obtain 250 mg of 5-[1-(tert-butoxycarbonyl)benzimidazol-2-yl]-7-(tert-butoxycarbonylamino)-9H-fluoren-9(R,S)-ylamine, in the form of an orange powder which is used as it is in the following stage.

reactant | 5-[1-(tert-butoxycarbonyl)benzimidazol-2-yl]-7-( tert-butoxycarbonyl-amino)-9H-fluoren-9-one oxime | 250 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)C2=C1C=3C=CC=CC3C(C1=CC(=C2)NC(=O)OC(C)(C)C)=NO | C30H30N4O5
catalyst | Raney nickel | 29 mg | [Ni] | Ni
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 5-[1-(tert-butoxycarbonyl)benzimidazol-2-yl]-7-(tert-butoxycarbonylamino)-9H-fluoren-9(R,S)-ylamine | 250 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)C2=C1C=3C=CC=CC3C(C1=CC(=C2)NC(=O)OC(C)(C)C)N | C30H32N4O4
